US09079866B2
4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-N-methyl-4-(trifluoromethyl)biphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 88 using 2-bromo-N-methyl-5-(trifluoromethyl)benzenesulfonamide and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C18H14F4N4O2S, 426.08; m/z found, 427.0 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.57-8.52 (d, J=1.4, 2H), 8.33-8.27 (m, 1H), 8.02-7.94 (m, 1H), 7.66-7.60 (d, J=7.9, 1H), 7.60-7.52 (m, 1H), 7.38-7.31 (m, 2H), 2.46 (s, 3H).

reactant | 2-bromo-N-methyl-5-(trifluoromethyl)benzenesulfonamide | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)NC | C8H7BrF3NO2S
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-N-methyl-4-(trifluoromethyl)biphenyl-2-sulfonamide | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C=1C(=CC(=CC1)C(F)(F)F)S(=O)(=O)NC)F | C18H14F4N4O2S
